US06429229B1
Mono-ornithine Keto-glutarate
To a basic solution of ornithine in 200 ml of water (1.1 N in water, 20 mmoles, 18.2 ml), α-keto-glutaric acid (2.92 g; 20 mmoles) is added. The solution is frozen and lyophilized one night. It is homogenized in a mortar.

reactant | ornithine | N[C@@H](CCCN)C(=O)O | C5H12N2O2
reactant | water | 20 mmoles, 1.1 N, 200 ml | O | H2O
reactant | α-keto-glutaric acid | 20 mmoles, 2.92 g | O=C(C(=O)O)CCC(=O)O | C5H6O5
product | Mono-ornithine Keto-glutarate | O=C(C(=O)O)CCC(=O)O.N[C@@H](CCCN)C(=O)O | InChI=1S/C5H12N2O2.C5H6O5/c6-3-1-2-4(7)5(8)9;6-3(5(9)10)1-2-4(7)8/h4H,1-3,6-7H2,(H,8,9);1-2H2,(H,7,8)(H,9,10)/t4-;/m0./s1
